US08278316B2
(E)-6-(4-Chlorostyryl)-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one
A mixture of 6-chloro-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one Part A of Procedure 11 (40 mg, 0.12 mmol), (E)-4-chlorostyrylboronic acid (56 mg, 0.30 mmol), potassium phosphate, tribasic (78 mg, 0.37 mmol), and palladiumtetrakis (7 mg, 6.16 μmol) in DMF (1 mL) was stirred under nitrogen at 55° C. for 1 hour. The mixture was diluted with DCM, washed with water, sat. NaHCO3 and brine, then dried (Na2SO4) and concentrated to afford the crude product. The crude product was purified using ISCO flash chromatography (silica gel/hexanes-ethyl acetate 100:0 to 0:100 gradient). The product was re-purified using HPLC (C18 column/10:90 to 90:10 MeOH—H2O) to afford the desired product (E)-6-(4-chlorostyryl)-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one J-1 (16.8 mg, 0.039 mmol, 31% yield) as a light yellow solid. LC/MS 427 (M+H)+, tR 0.97 min (method 5); 1H NMR (400 MHz, CHLOROFORM-d) δ 8.15 (1H, s), 7.76 (1H, d, J=15.56 Hz), 7.53 (2H, d, J=8.28 Hz), 7.38 (2H, d, J=8.28 Hz), 7.01 (1H, d, J=8.03 Hz), 6.82-6.98 (3H, m), 6.46 (1H, s), 3.89 (5H, br. s.), 1.37 (6H, s).

reactant | 6-chloro-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one | ClC1=CC(N(C=N1)C1=CC(=C(C=C1)OCC(C)(C)O)OC)=O | C15H17ClN2O4
reactant | (E)-4-chlorostyrylboronic acid | 0.30 mmol, 56 mg | ClC1=CC=C(/C=C/B(O)O)C=C1 | C8H8BClO2
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | palladiumtetrakis | 6.16 μmol, 7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (E)-6-(4-chlorostyryl)-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one | 0.039 mmol, 16.8 mg, 31% yield | ClC1=CC=C(/C=C/C2=CC(N(C=N2)C2=CC(=C(C=C2)OCC(C)(C)O)OC)=O)C=C1 | C23H23ClN2O4
